US07427613B2
(6-Chlorobenzo[1,3]dioxol-5-ylmethyl)cyclopropylamine
Synthesized according to typical procedure J from 6-chlorobenzo[1,3]dioxole-5-carbaldehyde and cyclopropylamine.

reactant | 6-chlorobenzo[1,3]dioxole-5-carbaldehyde | ClC=1C(=CC2=C(OCO2)C1)C=O | C8H5ClO3
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | (6-Chlorobenzo[1,3]dioxol-5-ylmethyl)cyclopropylamine | ClC=1C(=CC2=C(OCO2)C1)CNC1CC1 | C11H12ClNO2
